US08580824B2
A solution of 2-methyl-6-(2-methyl-propyl)-isonicotinic acid ethyl ester (9.78 g, 45.1 mmol) in 6 N aq. HCl (20 mL) is stirred at 95° C. for 20 h before the solvent is evaporated. The residue is dried under HV to give 2-methyl-6-(2-methyl-propyl)-isonicotinic acid hydrochloride (9.56 g) as a colourless solid, LC-MS: tR=0.52 min.

reactant | 2-methyl-6-(2-methyl-propyl)-isonicotinic acid ethyl ester | 45.1 mmol, 9.78 g | C(C)OC(C1=CC(=NC(=C1)CC(C)C)C)=O | C13H19NO2
reactant | HCl | 6 N, 20 mL | Cl | ClH
product | 2-methyl-6-(2-methyl-propyl)-isonicotinic acid hydrochloride | 9.56 g | Cl.CC=1C=C(C(=O)O)C=C(N1)CC(C)C | InChI=1S/C11H15NO2.ClH/c1-7(2)4-10-6-9(11(13)14)5-8(3)12-10;/h5-7H,4H2,1-3H3,(H,13,14);1H
